US09422271B2
To the mixture of 5-bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-phenylpyrimidin-4-amine (200 mg, 0.56 mmol, 1.0 eq) in THF (8 mL) and water (5 mL) was added a solution of Ac2O (0.18 mL, 1.68 mmol, 3.0 eq) in THF (2 mL). The reaction mixture was stirred for 14 hours and water was added. The mixture was filtered and the solid was washed with water and dried by co-evaporated with ethanol to give 1-(3-(5-bromo-2-phenylpyrimidin-4-ylamino)-5-cyclopropyl-1H-pyrazol-1-yl)ethanone (150 mg, 67%). LC-MS (m/z)=398.0, 400.0 [M+H]+.

reactant | 5-bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-phenylpyrimidin-4-amine | 0.56 mmol, 200 mg, 1.0 eq | BrC=1C(=NC(=NC1)C1=CC=CC=C1)NC1=NNC(=C1)C1CC1 | C16H14BrN5
reactant | Ac2O | 1.68 mmol, 0.18 mL, 3.0 eq | CC(=O)OC(=O)C | C4H6O3
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(3-(5-bromo-2-phenylpyrimidin-4-ylamino)-5-cyclopropyl-1H-pyrazol-1-yl)ethanone | 150 mg, 67% | BrC=1C(=NC(=NC1)C1=CC=CC=C1)NC1=NN(C(=C1)C1CC1)C(C)=O | C18H16BrN5O
